US06133258
The reaction procedure of Example 11 was followed except that 900 mg (2.69 mmol) of 2-(4-bromoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 24 mg of lithium hydride and =420 mg of methyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 803 mg of 2-[(4-bromophenyl)imino]-2,3-dihydro-3-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (86%, recrystallized from a mixture of ether and hexane) as a low polarity substance and 107 mg of 2-[N-(4-bromophenyl)-N-methylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (recrystallized from ether) as a high polarity substance.

reactant | 2-(4-bromoanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.69 mmol, 900 mg | BrC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8BrN3OS
reactant | lithium hydride | 24 mg | [H-].[Li+]
reactant | methyl iodide | 420 mg | CI | CH3I
product | 2-[(4-bromophenyl)imino]-2,3-dihydro-3-methyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 803 mg | BrC1=CC=C(C=C1)N=C1SC2=C(C(N1C)=O)C=CC=N2 | C14H10BrN3OS
